US07390923B2
3-(4-Fluorophenoxy)-2-hydroxy-2-methyl-N-(2-methyl-3-nitrophenyl)propionamide was prepared as described in Example 1c starting from 4-fluorophenol and 2-methyloxirane-2-carboxylic acid (2-methyl-3-nitrophenyl)amide. The crude product was purified by flash chromatography (dichloromethane-1% methanol). 1H NMR (400 MHz, DMSO-d6): 1.44 (3H, s), 2.28 (3H, s), 3.96 (1H, d, J=9.5 Hz), 4.17 (1H, d, J=9.5 Hz), 6.14 (1H, s), 6.93-6.97 (2H, m), 7.08-7.13 (2H, m), 7.41-7.45 (1H, m), 7.66-7.68 (1H, m), 7.72-7.75 (1H, m), 9.72 (1H, s).

reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | 2-methyloxirane-2-carboxylic acid (2-methyl-3-nitrophenyl)amide | CC1=C(C=CC=C1[N+](=O)[O-])NC(=O)C1(OC1)C | C11H12N2O4
product | 3-(4-Fluorophenoxy)-2-hydroxy-2-methyl-N-(2-methyl-3-nitrophenyl)propionamide | FC1=CC=C(OCC(C(=O)NC2=C(C(=CC=C2)[N+](=O)[O-])C)(C)O)C=C1 | C17H17FN2O5
